US20010056186A1
In a 1.3 liter stirred autoclave fitted with stirrer, temperature sensor, and riser tube, 666 g of pyridine-2,3-dicarboxylic acid N-benzylimide and 28.2 g of 5% by weight palladium-on-carbon were suspended in 959 g of toluene. The autoclave was then flushed, hydrogen was introduced, and the autoclave was heated at a reaction temperature of 80° C. as described in Example 1. Work-up of the reaction mixture as described in Example 1 gave 618 g of piperidine-2,3-dicarboxylic acid N-benzylimide in a purity of 98.7% (GC area percent).

reactant | pyridine-2,3-dicarboxylic acid N-benzylimide | 666 g | C(C1=CC=CC=C1)N=C(O)C1=NC=CC=C1C(=O)O | C14H12N2O3
solvent | toluene | 959 g | C1(=CC=CC=C1)C | C7H8
catalyst | palladium-on-carbon | [Pd] | Pd
product | piperidine-2,3-dicarboxylic acid N-benzylimide | 618 g | C(C1=CC=CC=C1)N=C(O)C1NCCCC1C(=O)O | C14H18N2O3
